US08022099B2
b) (3RS,4SR)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-ylamine
To a stirred solution of (3SR,4RS)-1-benzyl-3-(4-chloro-3-fluoro-phenyl)-4-nitro-pyrrolidine (0.78 g, 2.33 mmol) in EtOAc (15 ml) was added portion wise SnCl2.2H2O (2.63 g, 11.6 mmol). The reaction mixture was then heated at reflux for 4 hours, cooled down to RT and a saturated aqueous solution of NaHCO3 (500 ml) was added. The salts were filtered off and the product extracted with EtOAc. The organic phases were then dried over Na2SO4, and concentration under vacuum. A column chromatography (CH2Cl2/MeOH 95/5) gave 0.46 g (65%) of the title compound as a light brown oil. ES-MS m/e: 305.1 (M+H+).

reactant | (3SR,4RS)-1-benzyl-3-(4-chloro-3-fluoro-phenyl)-4-nitro-pyrrolidine | 2.33 mmol, 0.78 g | C(C1=CC=CC=C1)N1CC(C(C1)[N+](=O)[O-])C1=CC(=C(C=C1)Cl)F | C17H16ClFN2O2
reactant | SnCl2.2H2O | 11.6 mmol, 2.63 g | O.O.Cl[Sn]Cl
reactant | NaHCO3 | 500 ml | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | (3RS,4SR)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-ylamine | 0.46 g, 65% | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)F)N | C17H18ClFN2
